US05273999
Preparation of 2-[(7-Bromoheptyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester
Starting with 0.381 g (1.03 mmol) of 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester, and 2.13 g (8.26 mmol) of 1,7-dibromoheptane, the title compound was obtained as a colorless oil, in 81.6% yield, using the procedure of example 21.

reactant | 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 1.03 mmol, 0.381 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)O)=O | C21H22O6
reactant | 1,7-dibromoheptane | 8.26 mmol, 2.13 g | BrCCCCCCCBr | C7H14Br2
product | 2-[(7-Bromoheptyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester | 81.6% yield | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCCCCBr)=O | C28H35BrO6
